US07067540B2
Step 5: Preparation of 3-bromo-1-(3-fluorobenzyl)-6-methyl-4-(2-phenylethyl)pyridin-2(1H)-one
To a solution of 3-bromo-1-(3-fluorobenzyl)-6-methyl-4-(phenylethynyl)pyridin-2(1H)-one (0.55 g, 0.0014 mol) in EtOAc (10.0 mL) and EtOH (10.0 mL) was added PtO2 (0.05 g) and stirred in an atmosphere of hydrogen gas at 15 psi for 30 min. The catalyst was removed by filtration, the filtrate was concentrated and the residue was purified by silica gel flash chromatography using 25% EtOAc in hexane as the eluent.

reactant | 3-bromo-1-(3-fluorobenzyl)-6-methyl-4-(phenylethynyl)pyridin-2(1H)-one | 0.0014 mol, 0.55 g | BrC=1C(N(C(=CC1C#CC1=CC=CC=C1)C)CC1=CC(=CC=C1)F)=O | C21H15BrFNO
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 10.0 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 10.0 mL | CCO | C2H6O
catalyst | PtO2 | 0.05 g | O=[Pt]=O
product | 3-bromo-1-(3-fluorobenzyl)-6-methyl-4-(2-phenylethyl)pyridin-2(1H)-one | BrC=1C(N(C(=CC1CCC1=CC=CC=C1)C)CC1=CC(=CC=C1)F)=O | C21H19BrFNO
